L0 (VDD VOUT1) inductor
L7 (net21 net19) inductor
? Missing component
L5 (net22 net21) inductor
L4 (net16 net15) inductor
L3 (net20 VB1) inductor
L2 (VB1 net18) inductor
L1 (VDD VOUT2) inductor
Q1 (VOUT2 net20 net22 0) npn
Q0 (VOUT1 net18 net16 0) npn
R0 (net19 VSS) resistor
C5 (VOUT1 net20) capacitor
C4 (VOUT2 net18) capacitor
C3 (VCONT1 net21) capacitor
C2 (VCONT1 net15) capacitor
C1 (net20 net22) capacitor
C0 (net18 net16) capacitor
